US04595535
A mixture of 1 g of 5-ethoxycarbonyl-3-(o-nitrobenzyl)-1,2,4-triazole, 10 ml of ethanol and 25 mg of platinum oxide is hydrogenated at 3 atmospheres pressure for 2 hours, filtered and evaporated to give 3-(o-aminobenzyl)-5-ethoxycarbonyl-1,2,4-triazole.

reactant | 5-ethoxycarbonyl-3-(o-nitrobenzyl)-1,2,4-triazole | 1 g | C(C)OC(=O)C1=NC(=NN1)CC1=C(C=CC=C1)[N+](=O)[O-] | C12H12N4O4
catalyst | platinum oxide | 25 mg | [Pt]=O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-(o-aminobenzyl)-5-ethoxycarbonyl-1,2,4-triazole | NC1=C(CC2=NNC(=N2)C(=O)OCC)C=CC=C1 | C12H14N4O2
